* This information is protected under the United States copyright 
* laws. THAT Corporation ("THAT") hereby grants users of this 
* macromodel (the "User"), a nonexclusive, nontransferable 
* license to use this macromodel as long as the licensee abides
* by the terms of this agreement.  Before using the macromodel,
* the User should read this license.  If the User does not accept
* these terms, the macromodel contained herein should be erased, 
* destroyed or returned to THAT within 30 days.
*
* The User may copy and distribute, at no charge, verbatim copies
* of the Macromodel as contained herein, in any medium, provided 
* that the User conspicuously publishes on each copy this copyright 
* notice and disclaimer of warranty.  The User may modify this
* macromodel to suit his or her specific applications, and the User
* may make copies of the modified macromodel for use within his or  
* her company only, and provided the modified files carry prominent 
* notices stating that the files have been changed, and the date of 
* any changes.
* 
* This macromodel is provided "AS IS, WHERE IS, AND WITH NO WARRANTY
* OF ANY KIND EITHER EXPRESSED OR IMPLIED, INCLUDING BUT NOT LIMITED
* TO ANY IMPLIED WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A 
* PARTICULAR PURPOSE."  In no event will THAT be liable for special,
* collateral, incidental, or consequential damages in connection
* with or arising out of the use of this macromodel.  THAT reserves
* the right to make changes to the products and macromodel without
* prior notice.
* ======================================================================== 
* THAT 5171/5173 Differential Servo Behavioral MACROMODEL
* Rev. 02 Beta 2-26-2016
* Model by GKH
* Rev. 03 RB 7-4-2017
* Changed Vcc by V+ and Vee by V-
* CONNECTIONS:
*
.SUBCKT 517xSERVO SIN1 SCAP1 SOUT1 SIN2 SCAP2 SOUT2 V+ V- AGND
R_R2         SIN1 SCAP1  20k  
R_R1         SIN2 SCAP2  20k  
R_R3         1 V+  6.5k  
R_R4         2 V+  6.5k  
E_E3         SOUT1 0 3 0 1
R_R7         SOUT2 4  20k  
R_R8         4 SOUT1  20k  
Q_Q1         1 5 6 QNPNS 1
Q_Q2         2 SCAP1 6 QNPNS 1
D_D1         SCAP1 5 DC 
D_D2         5 SCAP1 DC 
D_D3         3 7 DC 
D_D5         8 3 DC 
V_V1         5 SCAP2 1mV
V_V2         V+ 7 1.5V
I_I1         6 V- DC 8uA  
R_R5         V- 3  650Meg  
V_V3         8 V- 1.5V
G_G2         3 V- 4 AGND 52e-6
G_G3         9 V- 4 AGND 52e-6
G_G1         3 9 1 2 154e-6
R_R6         V- 9  650Meg  
E_E4         SOUT2 0 9 0 1
C_C1         9 3  7pF  
D_D4         9 7 DC 
D_D6         8 9 DC 
*		
*
* NPN Transistor
.MODEL QNPNS NPN (IS=9e-16 BF=225 VAF=100 RB=200 CJC=.15pF)
*
.MODEL DC D (IS=1.0E-15)
.ENDS 
